US06667305B1
Synthesis of N-(Phenylacetyl)-L-leucine iso-Butyl Ester
L-Leucine (Aldrich) (0.114 g, 0.869 mmols) was taken-up in dioxane (5.0 mL) and treated with a saturated solution of sodium bicarbonate (5.0 mL) followed by phenylacetyl chloride (Aldrich) (0.114 mL, 0.822 mmols). After stirring for 17 hours at room temperature the mixture was diluted with ethyl acetate, the layers separated and the aqueous layer acidified to pH 2 with 5N HCl. The crude product was extracted into ethyl acetate, dried over sodium sulfate, vacuum dried and used without further purification. N-Phenylacetyl-L-leucine (0.0081 g, 0.038 mmol) was dissolved in 2.0 mL CHCl3 (EtOH free) and iso-butyl alcohol (0.055 mL) and treated with P-EPC (100 mg, 0.87 milliequivalents). The mixture was rotated for 4 days, filtered through a plug of cotton and the filtrate evaporated at reduced pressure to an oil which was sufficiently pure for testing.

reactant | L-Leucine | 0.869 mmols, 0.114 g | N[C@@H](CC(C)C)C(=O)O | C6H13NO2
reactant | sodium bicarbonate | 5.0 mL | C([O-])(O)=O.[Na+]
reactant | phenylacetyl chloride | 0.822 mmols, 0.114 mL | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | N-Phenylacetyl-L-leucine | 0.038 mmol, 0.0081 g | C1(=CC=CC=C1)CC(=O)N[C@@H](CC(C)C)C(=O)O | C14H19NO3
solvent | dioxane | 5.0 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | CHCl3 | 2.0 mL | C(Cl)(Cl)Cl | CHCl3
solvent | iso-butyl alcohol | 0.055 mL | C(C(C)C)O | C4H10O
product | N-(Phenylacetyl)-L-leucine iso-Butyl Ester | C(C(C)C)OC([C@@H](NC(CC1=CC=CC=C1)=O)CC(C)C)=O | C18H27NO3
